US04730005
A solution of 6-phenylhexanoic acid (19.8 mmoles) in sieve dried tetrahydrofuran (5 ml) was reduced with diborane in tetrahydrofuran (30 ml, 29.1 mmoles) at 0° C. for 4 hours to give 6-phenylhexanol. To an ice cold solution of the hexanol (ca. 19.8 mmoles) and carbon tetrabromide (21.98 mmoles) in methylene chloride (50 ml) was added triphenylphosphine (22.30 mmoles) in methylene chloride (50 ml) and the resulting solution was stirred for 2.5 hours. The volatiles were evaporated and the residue was taken up in ether (100 ml), cooled in ice, and filtered The filtrate was evaporated and distilled to afford 6-phenylhexyl bromide as an oil. A mixture of the bromide (8.00 mmoles), salicylaldehyde (8.19 mmoles) and potassium carbonate (9.33 mmoles) in dimethylformamide (10 ml) was heated to 100° C. and maintained at that temperature for one hour. The cooled reaction mixture was taken up in hexane (50 ml) and washed with 5% sodium hydroxide (50 ml) and saturated sodium chloride (50 ml). The organic phase was dried over anhydrous magnesium sulfate and charcoal. Evaporation yielded a colorless oil which was purified by flash chromatography over silica gel with 5% ethyl acetate in hexane as eluant to afford the desired product as an oil.

reactant | 6-phenylhexanoic acid | 19.8 mmoles | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | diborane | B#B | B2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 29.1 mmoles, 30 ml | O1CCCC1 | C4H8O
product | 6-phenylhexanol | C1(=CC=CC=C1)CCCCCCO | C12H18O
